US09062056B2
(R)-3-(6-Chloro-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester
To a solution of 2,6-dichloro-3-nitro-pyridine (0.75 g, 3.58 mmol) in DMF (30 ml) were added (R)-3-amino-3-phenylpropanoic acid ethyl ester (0.83 g, 4.29 mmol) and DIPEA (1.25 ml, 7.15 mmol). The reaction mixture was stirred at 70° C. overnight after which time it was poured into water (200 ml) and EtOAc. The layers were separated and the aqueous phase was extracted once more with EtOAc. The combined organics were washed with water twice and dried (MgSO4). Filtered and concentrated to give the crude product as an orange oil which was then purified by silica gel flash column chromatography (12 g silica gel, 5% EtOAc/Hexane) to afford 0.80 g (64%) of the title compound as a orange oil which was used without further purification.

reactant | 2,6-dichloro-3-nitro-pyridine | 3.58 mmol, 0.75 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | (R)-3-amino-3-phenylpropanoic acid ethyl ester | 4.29 mmol, 0.83 g | C(C)OC(C[C@H](C1=CC=CC=C1)N)=O | C11H15NO2
reactant | DIPEA | 7.15 mmol, 1.25 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 200 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-3-(6-Chloro-3-nitro-pyridin-2-ylamino)-3-phenyl-propionic acid ethyl ester | 0.80 g, 64% | C(C)OC(C[C@H](C1=CC=CC=C1)NC1=NC(=CC=C1[N+](=O)[O-])Cl)=O | C16H16ClN3O4
